### ISSUE TITLE
Copying doesn't include context in Tactics chapter

### ISSUE THREAD

**Issue by MrQubo** [leanprover/theorem_proving_in_lean4#149]
https://lean-lang.org/theorem_proving_in_lean4/tactics.html#:~:text=we can enable contextual simplifications as follows

I tried copying
```lean
example : if x = 0 then y + x = y else x ≠ 0 := by
  simp (config := { contextual := true })
```
and it was copied without definition of `x` and `y`.

These have the same issue as well:
```lean
example : ∀ (x : Nat) (h : x = 0), y + x = y := by
  simp (config := { contextual := true })
```
```lean
example : 0 < 1 + x ∧ x + y + 2 ≥ y + 1 := by
  simp_arith
```

I haven't checked any other.
